US07259266B2
Step 1. Preparation of ethyl 8-(1-hydroxyethyl)-6-methyl-2-(trifluoromethyl)-2H-chromene-3-carboxylate
The ethyl 8-formyl-6-methyl-2-(trifluoromethyl)-2H-chromene-3-carboxylate prepared as in Example 605a, Step 1 (1.00 g, 3.18 mmole) was dissolved in anhydrous THF (10 mL) and the solution was cooled to −78° C. (dry ice/acetone). Methylmagnesium bromide (1.16 mL, 3.50 mmole) was added dropwise to the above solution, which was allowed to stir for 2 hours. The reaction was quenched with saturated ammonium chloride (20 mL) and extracted with EtOAc (2×20 mL). The combined extracts were washed with brine (20 mL), dried over MgSO4, filtered and concentrated in vacuo to give a yellow oil. The oil was purified by flash chromatography (silica gel) with 10% MeOH/ CH2Cl2 to give a light yellow oil (0.3g, 54%): GCMS m/z 330.0 (M+). 1H NMR (CDCl3/400 MHz) 7.67 (s, 1H), 7.26 (s, 1H), 6.94 (s, 1H), 5.68 (q, 1H, J=7.0 Hz), 5.11 (m, 1H), 4.30 (m, 2H), 2.28 (s, 3H), 1.47 (m, 3H), 1.34 (m, 3H).

reactant | ethyl 8-formyl-6-methyl-2-(trifluoromethyl)-2H-chromene-3-carboxylate | C(=O)C=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)OCC)C | C15H13F3O4
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | Methylmagnesium bromide | 3.50 mmole, 1.16 mL | C[Mg]Br
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | ethyl 8-(1-hydroxyethyl)-6-methyl-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 0.3g, 54% | OC(C)C=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)OCC)C | C16H17F3O4
